US07786132B2
1-(2-{4-[5-(2-Ethylphenylthio)thiophen-2-yl]pyrimidin-2-ylamino}ethyl)-5,5-dimethylimidazolidine-2,4-dione
A solution of 1-{2-[4-(5-iodothiophen-2-yl)pyrimidin-2-ylamino]ethyl}-5,5-dimethyl-imidazolidine-2,4-dione (50 mg, 0.109 mmol) and 0.060 mL (0.44 mmol) of 2-ethylthiophenol in 2 mL toluene was treated with 3 mg of Pd2dba3 (0.003 mmol), 3 mg of Xantphos (0.005 mmol) and 0.22 mL of a 1 M solution of tBuOK in t-butanol. The reaction vial was sealed and heated at 110° C. in a microwave for 10 min. The crude solution was concentrated onto 5 g of silica gel and then purified by flash chromatography to give the title compound. MS (M+H)+ 468.

reactant | 1-{2-[4-(5-iodothiophen-2-yl)pyrimidin-2-ylamino]ethyl}-5,5-dimethyl-imidazolidine-2,4-dione | 0.109 mmol, 50 mg | IC1=CC=C(S1)C1=NC(=NC=C1)NCCN1C(NC(C1(C)C)=O)=O | C15H16IN5O2S
reactant | 2-ethylthiophenol | 0.44 mmol, 0.060 mL | C(C)C1=C(C=CC=C1)S | C8H10S
reactant | Xantphos | 0.005 mmol, 3 mg | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
reactant | tBuOK | C(C)(C)(C)O[K]
solvent | toluene | 2 mL | C1(=CC=CC=C1)C | C7H8
solvent | t-butanol | C(C)(C)(C)O | C4H10O
catalyst | Pd2dba3 | 0.003 mmol, 3 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 1-(2-{4-[5-(2-Ethylphenylthio)thiophen-2-yl]pyrimidin-2-ylamino}ethyl)-5,5-dimethylimidazolidine-2,4-dione | C(C)C1=C(C=CC=C1)SC1=CC=C(S1)C1=NC(=NC=C1)NCCN1C(NC(C1(C)C)=O)=O | C23H25N5O2S2
